US04592866
2-(2-Chloroethyl)-2,3-dihydro-4-methylpyrido[3,4-f][1,4]oxazepine-5(4H)-thione monohydrochloride
2-(2-Chloroethyl)-2,3-dihydro-4-methylpyrido[3,4-f][1,4]oxazepin-5(4H)-one, 15 g (0.06 mole), was dissolved in 200 ml of dry toluene and 15 g (0.037 mole) of [2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiaphosphetane-2,4-disulfide was added. The mixture was refluxed for 2.5 hr and the toluene solution decanted. The residue was partitioned between dilute sodium hydroxide and chloroform. The chloroform was dried and concentrated. The residue was chromatographed on a high pressure liquid chromatograph (Waters 500) using a silica column and eluting with ethyl acetate. The fraction containing material of molecular weight 257 was concentrated. The residue in isopropyl alcohol was treated with hydrogen chloride and the resulting crystals were collected. Yield of hydrochloride salt was 0.1 g (0.6%), m.p. 168°-171° C.

reactant | 2-(2-Chloroethyl)-2,3-dihydro-4-methylpyrido[3,4-f][1,4]oxazepin-5(4H)-one | ClCCC1OC2=C(C(N(C1)C)=O)C=NC=C2 | C11H13ClN2O2
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiaphosphetane-2,4-disulfide | COC1=CC=C(C=C1)P2(=S)SP(=S)(S2)C3=CC=C(C=C3)OC | C14H14O2P2S4
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Chloroethyl)-2,3-dihydro-4-methylpyrido[3,4-f][1,4]oxazepine-5(4H)-thione monohydrochloride | Cl.ClCCC1OC2=C(C(N(C1)C)=S)C=NC=C2 | InChI=1S/C11H13ClN2OS.ClH/c1-14-7-8(2-4-12)15-10-3-5-13-6-9(10)11(14)16;/h3,5-6,8H,2,4,7H2,1H3;1H
